US04883917
Initially a hydroxyethyl quat was made by reacting 100 grams of dioctyl methyl amine with 42 mLs of 2-chloroethanol in 200 grams of methylethyl ketone solvent at reflux for 5 hours to obtain a methylethyl ketone solution of dioctyl methyl hydroxyethyl ammonium chloride. To this was added dropwise, 59.04 grams of glutaryl dichloride over a 1 hour period while sparging the mixture with nitrogen. This was held at reflux (90° C.) for 30 minutes to give a brown solution of di(dioctyl methyl ammonium ethyl)glutarate dichloride which could be recovered by evaporation of the methylethyl ketone under vacuum.

reactant | dioctyl methyl amine | 100 grams | C(CCCCCCC)N(C)CCCCCCCC | C17H37N
reactant | 2-chloroethanol | 42 mLs | ClCCO | C2H5ClO
solvent | methylethyl ketone | 200 grams | CC(=O)CC | C4H8O
product | dioctyl methyl hydroxyethyl ammonium chloride | [Cl-].C(CCCCCCC)[N+](CCO)(C)CCCCCCCC | InChI=1S/C19H42NO.ClH/c1-4-6-8-10-12-14-16-20(3,18-19-21)17-15-13-11-9-7-5-2;/h21H,4-19H2,1-3H3;1H/q+1;/p-1
